US07514566B2
A 50% TFA/DCM mixture (10 mL) was added to tert-butyl 1,6-naphthyridin-2-ylcarbamate (2.7 g, 11.0 mmol) from the above step. After 30 minutes, the reaction mixture was concentrated and diluted with 30 mL of water. A saturated NaHCO3 solution (15 mL) was added, and the reaction mixture was extracted twice with 50 mL of EtOAc. The organic layers were combined, concentrated, and purified by chromatography through a Redi-Sep® pre-packed silica gel column (120 g), eluting with a gradient 0-15% MeOH/DCM to give 1,6-naphthyridin-2-amine (1.6 g, 99% yield). MS m/z: 145 (M+1). 1H NMR (400 MHz, (CD3OD)): δ ppm 6.93 (d, J=9.00 Hz, 1H), 7.41 (d, J=6.06 Hz, 1H), 8.05 (d, J=9.00 Hz, 1H), 8.37 (d, J=5.87 Hz, 1H), 8.83 (s, 1H).

reactant | tert-butyl 1,6-naphthyridin-2-ylcarbamate | 11.0 mmol, 2.7 g | N1=C(C=CC2=CN=CC=C12)NC(OC(C)(C)C)=O | C13H15N3O2
solvent | TFA DCM | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 1,6-naphthyridin-2-amine | 1.6 g, 99% yield | N1=C(C=CC2=CN=CC=C12)N | C8H7N3
